US04731358
6-diallylamino-β-carboline-4-carboxylic acid ethyl ester
A solution of 0.28 g of 6-amino-β-carboline-4-carboxylic acid ethyl ester, 0.18 g of diazabicycloundecane and 0.26 g of allylbromide in 5 ml of ethanol is heated for 3 hours to 70° C. Then the solution is evaporated. The evaporation residue is extracted with ethyl acetate and water, the combined extracts are evaporated and chromatographed on silica gel with methylene chloride/methanol=5:1. Yield: 0.05 g.

reactant | 6-amino-β-carboline-4-carboxylic acid ethyl ester | 0.28 g | C(C)OC(=O)C1=CN=CC=2NC3=CC=C(C=C3C12)N | C14H13N3O2
reactant | diazabicycloundecane | 0.18 g | N1(NCCCCCCCCC1)C1CCCCCCCCCC1 | C20H40N2
reactant | allylbromide | 0.26 g | C(C=C)Br | C3H5Br
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 6-diallylamino-β-carboline-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN=CC=2NC3=CC=C(C=C3C12)N(CC=C)CC=C | C20H21N3O2
